US04046876
A suspension of 2.00 g of N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginine in 20 ml of thionyl chloride was stirred for 2 hours at room temperature. Addition of cold dry diethyl ether results in a precipitate which was collected by filtration and washed several times with dry diethyl ether to give N2 -(6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl chloride hydrochloride.

reactant | N2 (6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginine | 2.00 g | N#N.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | N2 (6,7-dimethoxy-2-naphthalenesulfonyl)-L-arginyl chloride hydrochloride | N#N.Cl.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl | InChI=1S/C18H23ClN4O5S.ClH.N2/c1-27-15-9-11-5-6-13(8-12(11)10-16(15)28-2)29(25,26)23-14(17(19)24)4-3-7-22-18(20)21;;1-2/h5-6,8-10,14,23H,3-4,7H2,1-2H3,(H4,20,21,22);1H;/t14-;;/m0../s1
